US06552068B1
A 40% solution of diethyl azodicarboxylate in toluene (21.9 ml) was added dropwise to an ice-cold solution of (2RS,3RS)-2-ethyl-3-(2-hydroxy-4-methoxymethoxyphenyl)-2-(4-methoxymethoxy-phenyl)-5-hexenol (9.5 g) and triphenylphosphine (15.0 g) in dry 1,4-dioxane (150 ml) over 25 minutes under nitrogen atmosphere. The reaction mixture was stirred for 10 minutes on ice and for 30 minutes at room temperature. Under ice-cooling, water was added to the reaction mixture, which was then extracted twice with ethyl acetate. The combined organic layers were dried over magnesium sulfate and then concentrated to give a crude product, which was then purified by flash column chromatography (silica gel: Merck Kieselgel 60, eluent: hexane/ethyl acetate=50/1→20/1→10/1) to give (3RS,4RS)-3-ethyl-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-4-(2-propenyl)chroman (8.4 g, Yield 92.6%) as a white solid.

reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (2RS,3RS)-2-ethyl-3-(2-hydroxy-4-methoxymethoxyphenyl)-2-(4-methoxymethoxy-phenyl)-5-hexenol | 9.5 g | C(C)C(CO)(C(CC=C)C1=C(C=C(C=C1)OCOC)O)C1=CC=C(C=C1)OCOC | C24H32O6
reactant | triphenylphosphine | 15.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | O | H2O
solvent | toluene | 21.9 ml | C1(=CC=CC=C1)C | C7H8
solvent | 1,4-dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | (3RS,4RS)-3-ethyl-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-4-(2-propenyl)chroman | 8.4 g, Yield 92.6% | C(C)C1(COC2=CC(=CC=C2C1CC=C)OCOC)C1=CC=C(C=C1)OCOC | C24H30O5
